US07939536B2
c: Synthesis of 3-(4-fluorophenyl)-5-[(2-methoxymethoxyphenyl)acetylamino]-4-(4-pyrimidinyl)isoxazole
In 16 mL of THF, 047 g of (2-methoxymethoxyphenyl)acetic acid and 0.5 g of CDI were dissolved and stirred at room temperature for 2 hours. Then 16 mL of a THF solution containing 0.92 g of DBU and 0.31 g of 5-amino-3-(4-fluorophenyl)-4-pyrimidinyl isoxazole was added, followed by 21 hours' stirring at room temperature. From the reaction solution the solvent was distilled off under reduced pressure. To the residue water was added and extracted with ethyl acetate. The ethyl acetate extract was dried over anhydrous magnesium sulfate and removed of the solvent by distillation under reduced pressure. The residue was purified on 50 g silica gel chromatography (eluent, chloroform:methanol=100:1) and the residue was washed with ether-hexane to provide 0.32 g yield: 60%) of the title compound.

reactant | CDI | 0.5 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DBU | 0.92 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-amino-3-(4-fluorophenyl)-4-pyrimidinyl isoxazole | 0.31 g | NC1=C(C(=NO1)C1=CC=C(C=C1)F)C1=NC=CC=N1 | C13H9FN4O
reactant | (2-methoxymethoxyphenyl)acetic acid | COCOC1=C(C=CC=C1)CC(=O)O | C10H12O4
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 3-(4-fluorophenyl)-5-[(2-methoxymethoxyphenyl)acetylamino]-4-(4-pyrimidinyl)isoxazole | yield: 60% | FC1=CC=C(C=C1)C1=NOC(=C1C1=NC=NC=C1)NC(CC1=C(C=CC=C1)OCOC)=O | C23H19FN4O4
